US08497274B2
(iv) Production of N-{3-[(2-amino-7-cyano-1,3-benzothiazol-6-yl)oxy]phenyl}-3-(1-cyano-1-methylethyl)benzamide
Potassium thiocyanate (1.84 g, 18.9 mmol) was suspended in acetic acid (20 mL), and the mixture was stirred at room temperature for 10 min. N-[3-(4-Amino-2-cyanophenoxy)phenyl]-3-(1-cyano-1-methylethyl)benzamide (1.5 g, 3.78 mmol) was added to the obtained solution, and the mixture was further stirred at room temperature for 10 min. A solution of bromine (635 mg, 3.97 mmol) in acetic acid (10 mL) was added dropwise to the obtained solution over 15 min. After the completion of the dropwise addition, and the mixture was stirred at room temperature for 4 hr. A solution of potassium thiocyanate (0.734 g, 7.56 mmol) and bromine (241 mg, 1.51 mmol) in acetic acid (5 mL) was added, the mixture was further stirred for 1 hr. Insoluble material was filtered off and washed with acetic acid. The filtrate and washings were combined and the mixture was concentrated under reduced pressure. The obtained residue was suspended in ethyl acetate (200 mL)/tetrahydrofuran (20 mL), washed successively with 1N aqueous sodium hydroxide solution (100 mL), 5% aqueous sodium hydrogen carbonate solution (200 mL) and saturated brine (200 mL), and dried over anhydrous sodium sulfate. Insoluble material was filtered off, and the filtrate was purified by basic silica gel column chromatography (eluate: ethyl acetate). The obtained solution was concentrated under reduced pressure to give the title compound (1.38 g, 81%) as a yellow powder.

reactant | Potassium thiocyanate | 18.9 mmol, 1.84 g | [S-]C#N.[K+]
reactant | N-[3-(4-Amino-2-cyanophenoxy)phenyl]-3-(1-cyano-1-methylethyl)benzamide | 3.78 mmol, 1.5 g | NC1=CC(=C(OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C(C)(C)C#N)=O)C=C1)C#N | C24H20N4O2
reactant | bromine | 3.97 mmol, 635 mg | BrBr | Br2
reactant | potassium thiocyanate | 7.56 mmol, 0.734 g | [S-]C#N.[K+]
reactant | bromine | 1.51 mmol, 241 mg | BrBr | Br2
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | N-{3-[(2-amino-7-cyano-1,3-benzothiazol-6-yl)oxy]phenyl}-3-(1-cyano-1-methylethyl)benzamide | 1.38 g, 81% | NC=1SC2=C(N1)C=CC(=C2C#N)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C(C)(C)C#N)=O | C25H19N5O2S
